US07759373B2
To a solution of 2-(5-chlorothiophen-2-yl)-5-hydroxy-methyl-4-(3-pyridyl) imidazole (200 mg) in methylene chloride (5 ml) was added thionyl chloride (5 ml), and the mixture was refluxed for one hour. After cooling, the reaction mixture was concentrated under reduced pressure to obtain a crude product of 2-(5-chlorothiophen-2-yl)-5-chloromethyl-4-(3-pyridyl)-imidazole dihydrochloride (260 mg) as yellowish powder.

reactant | 2-(5-chlorothiophen-2-yl)-5-hydroxy-methyl-4-(3-pyridyl) imidazole | 200 mg | ClC1=CC=C(S1)C=1N(C(=C(N1)C=1C=NC=CC1)O)C | C13H10ClN3OS
reactant | thionyl chloride | 5 ml | S(=O)(Cl)Cl | Cl2OS
reactant | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | 2-(5-chlorothiophen-2-yl)-5-chloromethyl-4-(3-pyridyl)-imidazole dihydrochloride | 260 mg | Cl.Cl.ClC1=CC=C(S1)C=1NC(=C(N1)C=1C=NC=CC1)CCl | InChI=1S/C13H9Cl2N3S.2ClH/c14-6-9-12(8-2-1-5-16-7-8)18-13(17-9)10-3-4-11(15)19-10;;/h1-5,7H,6H2,(H,17,18);2*1H
